US08445510B2
3-[(1S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)ethyl]-5-(1,2-dimethyl-1H-imidazol-5-yl)-1H-pyrrolo[2,3-b]pyridine
A solution of 5-bromo-1,2-dimethyl-1H-imidazole (0.0183 g, 0.104 mmol), 3-[(S)-1-(2-chloro-3-fluoro-6-methoxy-phenyl)-ethyl]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine (0.030 g, 0.070 mmol), potassium carbonate (0.0289 g, 0.209 mmol) and 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) dichloride, dichloromethane (2.84 mg, 0.00348 mmol) in previously degassed 4:1 dioxane:water (1.50 mL) was evacuated and charged with N2 (2×) and heated under microwave conditions [Biotage, 100° C., 30 min, high absorption]. The reaction mixture was purified by Gilson HPLC resulting in the title compound as a white solid. 1H NMR (400 MHz, CD3OD): δ=1.80 (d, J=7.1 Hz, 3H), 2.58 (s, 3H), 3.47 (s, 3H), 3.67 (s, 3H), 5.12 (q, J=7.1 Hz, 1H), 6.90 (dd, J=4.3, 9.1 Hz, 1H), 7.08 (dd, J=9.0, 9.0 Hz, 1H), 7.22 (s, 1H), 7.46 (d, J=1.0 Hz, 1H), 7.56 (s, 1H), 8.18 (d, J=1.8 Hz, 1H). MS (ES+): m/z 399.12, 401.11 (76/24) [MH+]. HPLC: tR=2.77 min (polar—5 min, ZQ3).

reactant | 5-bromo-1,2-dimethyl-1H-imidazole | 0.104 mmol, 0.0183 g | BrC1=CN=C(N1C)C | C5H7BrN2
reactant | 3-[(S)-1-(2-chloro-3-fluoro-6-methoxy-phenyl)-ethyl]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | 0.070 mmol, 0.030 g | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C | C22H25BClFN2O3
reactant | potassium carbonate | 0.209 mmol, 0.0289 g | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | 0.00348 mmol, 2.84 mg | ClCCl | CH2Cl2
catalyst | 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) dichloride | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-[(1S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)ethyl]-5-(1,2-dimethyl-1H-imidazol-5-yl)-1H-pyrrolo[2,3-b]pyridine | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)C2=CN=C(N2C)C | C21H20ClFN4O
